US04079066
A mixture of resorcinol (11.0 g, 0.1 mole) and ethyl 2-naphthoyl-acetate (24.2 g, 0.1 mole) in concentrated sulphuric acid (50 ml) was stirred at room temperature for 5 days then poured into water to give a yellow gum. The gum was washed several times with water then dissolved in ethanol and diluted with water to give 7-hydroxy-4-(2-naphthyl)coumarin as a fine pale brown precipitate in 26% yield.

reactant | resorcinol | 0.1 mole, 11.0 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | ethyl 2-naphthoyl-acetate | 0.1 mole, 24.2 g | C1=C(C=CC2=CC=CC=C12)C(=O)CC(=O)OCC | C15H14O3
reactant | water | O | H2O
solvent | sulphuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 7-hydroxy-4-(2-naphthyl)coumarin | 26% yield | OC1=CC=C2C(=CC(OC2=C1)=O)C1=CC2=CC=CC=C2C=C1 | C19H12O3
